US05721234
N2 -Methyl-2,5-diacetamido-6-bromo-4-nitroindane
A mixture of N2 -methyl-2,6-diacetamido-5-bromoindane (21.8 g, 67 mmol) in trifluoroacetic acid (200 mL) was cooled in an ice bath and treated with fuming nitric acid (25 mL). After stirring for 1 h, the mixture was warmed to room temperature and stirred for an additional 3 h. The solvent was removed and the residue taken up in water. The mixture was triturated in diethyl ether to give a precipitate, which was collected by filtration and dried to give the product (22.5 g).

reactant | N2 methyl-2,6-diacetamido-5-bromoindane | 67 mmol, 21.8 g | N#N.CC1C(CC2=CC(=C(C=C12)NC(C)=O)Br)NC(C)=O
reactant | nitric acid | 25 mL | [N+](=O)(O)[O-] | HNO3
reactant | trifluoroacetic acid | 200 mL | FC(C(=O)O)(F)F | C2HF3O2
product | N2 Methyl-2,5-diacetamido-6-bromo-4-nitroindane | 22.5 g | N#N.CC1C(CC2=C(C(=C(C=C12)Br)NC(C)=O)[N+](=O)[O-])NC(C)=O | InChI=1S/C14H16BrN3O4.N2/c1-6-9-4-11(15)13(17-8(3)20)14(18(21)22)10(9)5-12(6)16-7(2)19;1-2/h4,6,12H,5H2,1-3H3,(H,16,19)(H,17,20);
